Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[NH2:1][c:2]1[cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][c:10]([S:11](=[O:12])(=[O:13])[OH:14])[cH:15][c:16]3[cH:17][c:18]([S:19](=[O:20])(=[O:21])[OH:22])[cH:23][c:24]([S:25](=[O:26])(=[O:27])[OH:28])[c:29]23)[cH:30][c:31]([C:32](=[O:33])[NH:34][c:35]2[cH:36][c:37]([S:38](=[O:39])(=[O:40])[OH:41])[cH:42][c:43]3[cH:44][c:45]([S:46](=[O:47])(=[O:48])[OH:49])[cH:50][c:51]([S:52](=[O:54])(=[O:53])[OH:55])[c:56]23)[cH:57]1.[O:58]=[C:59]=[N:60][c:61]1[cH:62][cH:63][cH:64][c:65]([C:66]([F:67])([F:68])[F:69])[cH:70]1>>[NH:1]([c:2]1[cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][c:10]([S:11](=[O:12])(=[O:13])[OH:14])[cH:15][c:16]3[cH:17][c:18]([S:19](=[O:20])(=[O:21])[OH:22])[cH:23][c:24]([S:25](=[O:26])(=[O:27])[OH:28])[c:29]23)[cH:30][c:31]([C:32](=[O:33])[NH:34][c:35]2[cH:36][c:37]([S:38](=[O:39])(=[O:40])[OH:41])[cH:42][c:43]3[cH:44][c:45]([S:46](=[O:47])(=[O:48])[OH:49])[cH:50][c:51]([S:52](=[O:53])(=[O:54])[OH:55])[c:56]23)[cH:57]1)[C:59](=[O:58])[NH:60][c:61]1[cH:62][cH:63][cH:64][c:65]([C:66]([F:67])([F:68])[F:69])[cH:70]1,[NH2:1][c:2]1[cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][c:10]([S:11](=[O:12])(=[O:13])[OH:14])[cH:15][c:16]3[cH:17][c:18]([S:19](=[O:20])(=[O:21])[OH:22])[cH:23][c:24]([S:25](=[O:26])(=[O:27])[OH:28])[c:29]23)[cH:30][c:31]([C:32](=[O:33])[NH:34][c:35]2[cH:36][c:37]([S:38](=[O:39])(=[O:40])[OH:41])[cH:42][c:43]3[cH:44][c:45]([S:46](=[O:47])(=[O:48])[OH:49])[cH:50][c:51]([S:52](=[O:53])(=[O:54])[OH:55])[c:56]23)[cH:57]1.[O:58]=[C:59]=[N:60][c:61]1[cH:62][cH:63][cH:64][c:65]([C:66]([F:67])([F:68])[F:69])[cH:70]1>>[NH:1]([c:2]1[cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][c:10]([S:11](=[O:12])(=[O:13])[OH:14])[cH:15][c:16]3[cH:17][c:18]([S:19](=[O:20])(=[O:21])[OH:22])[cH:23][c:24]([S:25](=[O:26])(=[O:27])[OH:28])[c:29]23)[cH:30][c:31]([C:32](=[O:33])[NH:34][c:35]2[cH:36][c:37]([S:38](=[O:39])(=[O:40])[OH:41])[cH:42][c:43]3[cH:44][c:45]([S:46](=[O:47])(=[O:48])[OH:49])[cH:50][c:51]([S:52](=[O:53])(=[O:54])[OH:55])[c:56]23)[cH:57]1)[C:59](=[O:58])[NH:60][c:61]1[cH:62][cH:63][cH:64][c:65]([C:66]([F:67])([F:68])[F:69])[cH:70]1,nucleophilic_attack_to_iso(thio)cyanate,"[(1, 59), ([59, 58], 58), (58, 1.1), ([1.1, 1], 1), (58, [58, 59]), ([59, 60], 60), (60, 58.1), ([58.1, 58], 58)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][Cl:4].[CH3:5][O:6][C:7](=[O:8])[CH:9]1[CH:10]2[CH2:11][CH:12]3[CH:13]([O:14][C:15](=[O:16])[CH:17]13)[CH:18]2[OH:19]>>[C:1](=[O:2])([CH2:3][Cl:4])[O:19][CH:18]1[CH:10]2[CH:9]([C:7]([O:6][CH3:5])=[O:8])[CH:17]3[CH:12]([CH2:11]2)[CH:13]1[O:14][C:15]3=[O:16],[CH3:5][O:6][C:7](=[O:8])[CH:9]1[CH:10]2[CH2:11][CH:12]3[CH:13]([O:14][C:15](=[O:16])[CH:17]13)[CH:18]2[OH:19].[OH:101][C:1](=[O:2])[CH2:3][Cl:4].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][Cl:4])[O:19][CH:18]1[CH:10]2[CH:9]([C:7]([O:6][CH3:5])=[O:8])[CH:17]3[CH:12]([CH2:11]2)[CH:13]1[O:14][C:15]3=[O:16],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (19, 1), ([1, 2], 2), (303, 19.1), ([19.1, 19], 19), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:10])([F:9])[F:11])[cH:12]1.[CH3:13][CH2:14][NH:15][CH2:16][CH3:17]>>[c:1]1([N:15]([CH2:14][CH3:13])[CH2:16][CH3:17])[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]1,[F:101][c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]1.[CH3:13][CH2:14][NH:15][CH2:16][CH3:17]>>[c:1]1([N:15]([CH2:14][CH3:13])[CH2:16][CH3:17])[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]1,SNAr(para),"[(15, 1), ([1, 12], [12, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 12], [12, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[CH3:2][O:3][c:4]1[cH:5][cH:6][cH:7][c:8]([C:9]2([CH2:10][OH:11])[CH2:12][CH2:13][N:14]([c:15]3[cH:16][cH:17][cH:18][cH:19][c:20]3[O:21][CH3:22])[CH2:23][CH2:24]2)[cH:25]1>>[CH3:1][O:11][CH2:10][C:9]1([c:8]2[cH:7][cH:6][cH:5][c:4]([O:3][CH3:2])[cH:25]2)[CH2:12][CH2:13][N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][c:20]2[O:21][CH3:22])[CH2:23][CH2:24]1,[CH3:2][O:3][c:4]1[cH:5][cH:6][cH:7][c:8]([C:9]2([CH2:10][OH:11])[CH2:12][CH2:13][N:14]([c:15]3[cH:16][cH:17][cH:18][cH:19][c:20]3[O:21][CH3:22])[CH2:23][CH2:24]2)[cH:25]1.[I:101][CH3:1].[H-:301].[Na+]>>[CH3:1][O:11][CH2:10][C:9]1([c:8]2[cH:7][cH:6][cH:5][c:4]([O:3][CH3:2])[cH:25]2)[CH2:12][CH2:13][N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][c:20]2[O:21][CH3:22])[CH2:23][CH2:24]1,SN2_alcohol(thiol),"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
